US07125896B2
b) 3-(2-Bromophenoxy)-1-(2-methoxyethyl)pyrrolidine
3-(2-Bromophenoxy)pyrrolidine (1.23 g), 1-bromo-2-methoxyethane (0.526 ml) and potassium carbonate (842 mg) were mixed with dimethylformamide (50 ml) and stirred for two days. The mixture was added to water (100 ml). The mixture was extracted with diethyl ether (3×50 ml), washed with water (2×50 ml), brine (2×30 ml), dried (MgSO4) and concentrated in vacuo. Purification was achieved using cation exchange chromatography eluting with ammonia/methanol/dichloromethane mixtures yielding product as a clear oil (0.8 g).

reactant | 3-(2-Bromophenoxy)pyrrolidine | 1.23 g | BrC1=C(OC2CNCC2)C=CC=C1 | C10H12BrNO
reactant | 1-bromo-2-methoxyethane | 0.526 ml | BrCCOC | C3H7BrO
reactant | potassium carbonate | 842 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 3-(2-Bromophenoxy)-1-(2-methoxyethyl)pyrrolidine | 0.8 g | BrC1=C(OC2CN(CC2)CCOC)C=CC=C1 | C13H18BrNO2
